US08563565B2
(1) Synthesis of 3-bromo-6-(bromomethyl)-2,4-dimethylpyridine
A mixture of 3-bromo-2,4,6-trimethylpyridine (15.6 g), NBS (13.9 g) and benzoyl peroxide (567 mg) was heated under reflux in a carbon tetrachloride solvent (300 mL) for two hours. The reaction mixture was cooled to room temperature and then filtered, and the filtration residue was washed with carbon tetrachloride. The resulting filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 0% to 10%) to give the title compound (8.00 g).

reactant | 3-bromo-2,4,6-trimethylpyridine | 15.6 g | BrC=1C(=NC(=CC1C)C)C | C8H10BrN
reactant | NBS | 13.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 567 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-bromo-6-(bromomethyl)-2,4-dimethylpyridine | 8.00 g | BrC=1C(=NC(=CC1C)CBr)C | C8H9Br2N
